US09238653B2
Step (C) Synthesis of N-(4-chlorophenyl)-5-methyl-2-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyrimidin-7-amine
4-chloroaniline (0.355 g, 2.78 mmol) was added to a well-stirred absolute ethanol solution of 7-chloro-5-methyl-2-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyrimidine (0.547 g, 2.32 mmol, 15-20 mL). After stirring for 6-8 hours at room temperature, the desired product crystallized and was then filtered. Subsequent purification using column chromatography gave the final product in 66% yield.

reactant | 4-chloroaniline | 2.78 mmol, 0.355 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 7-chloro-5-methyl-2-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 2.32 mmol, 15-20 mL, 0.547 g | ClC1=CC(=NC=2N1N=C(N2)C(F)(F)F)C | C7H4ClF3N4
solvent | ethanol | C(C)O | C2H6O
product | N-(4-chlorophenyl)-5-methyl-2-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 66% yield | ClC1=CC=C(C=C1)NC1=CC(=NC=2N1N=C(N2)C(F)(F)F)C | C13H9ClF3N5
